US07378414B2
Butyrylsulfamoyl Chloride
n-Butanoic acid (0.881 g, 10 mmol) was added slowly dropwise to chlorosulfonyl isocyanate (1.42 g, 10 mmol), with ice/water bath cooling as required to maintain gentle gas evolution. After the addition was complete, the residue was taken up in benzene (10 mL) and the mixture concentrated in vacuo to provide the title compound (1.85 g, quantitative) as a crystalline, hygroscopic solid.

reactant | n-Butanoic acid | 10 mmol, 0.881 g | C(CCC)(=O)O | C4H8O2
reactant | chlorosulfonyl isocyanate | 10 mmol, 1.42 g | ClS(=O)(=O)N=C=O | CClNO3S
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | Butyrylsulfamoyl Chloride | 1.85 g | C(CCC)(=O)NS(=O)(=O)Cl | C4H8ClNO3S
